US04871737
3-(Dibutylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride [1:1].
A stirred solution of 14.3 g (0.07 mole) of 4,4-di-n-butyl-3-thiosemicarbazide in 100 mL of absolute ethanol was cooled to 10° C. under nitrogen atmosphere, treated with 11.6 g (0.07 mole) of ethyl 2-choroacetoacetate, warmed to 60° C., then cooled to ambient temperature and stirred for 18 hr. The reaction mixture was heated to reflux in order to dissolve the precipitate, filtered to remove amorphous sulfur and concentrated in vacuo to give a solid. The solid was recrystallized from acetone to yield 8 g of white crystalline product, mp 159°-162° C., as the hydrochloride salt.

reactant | 4,4-di-n-butyl-3-thiosemicarbazide | 0.07 mole, 14.3 g | C(CCC)N(C(NN)=S)CCCC | C9H21N3S
reactant | ethyl 2-choroacetoacetate | 0.07 mole, 11.6 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(Dibutylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 8 g | Cl.C(CCC)N(C1=NNC(=C1C(=O)OCC)C)CCCC | InChI=1S/C15H27N3O2.ClH/c1-5-8-10-18(11-9-6-2)14-13(12(4)16-17-14)15(19)20-7-3;/h5-11H2,1-4H3,(H,16,17);1H
